US05679700
Step B: Benzyl 2-((methoxyphosphinyl)methyl)-4-phenylbutanoate
Trimethyl orthoformate (11.0 mL, 10.7 g, 101 mmol) was added to anhydrous hypophosphorous acid3 (4.0 mL, 6.0 g. 90 mmol) and the solution was stirred for 1.5 h at room temperature. In a separate flask, N,N,N',N'-tetramethylguanidine (1.50 mL, 1.38 g, 12.0 mmol) was added to benzyl 2-methylene-4-phenyl-butanoate (3.99 g, 15.0 mmol) and the solution was cooled to 0° C. by an ice bath. An portion of the methyl hypophosphite solution (12.0 mL, d=1.04 g/mL, approx. 68 mmol) was added over 1 h. The ice bath was removed and the solution was stirred an additional 1.25 h. The reaction was diluted with ethyl acetate (150 mL) and washed with 2N aqueous hydrochloric acid (50 mL), water (50 mL), and saturated aqueous sodium chloride (50 mL). The aqueous layers were extracted in succession with ethyl acetate (50 mL). The organic layers were dried (sodium sulfate), decanted, and evaporated. After drying overnight under vacuum, the crude product was 5.19 g (100% yield) of viscous colorless oil.

reactant | Trimethyl orthoformate | 101 mmol, 11.0 mL, 10.7 g | C(OC)(OC)OC | C4H10O3
reactant | N,N,N',N'-tetramethylguanidine | 12.0 mmol, 1.50 mL, 1.38 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | benzyl 2-methylene-4-phenyl-butanoate | 15.0 mmol, 3.99 g | C=C(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C18H18O2
reactant | methyl hypophosphite | approx. 68 mmol, 12.0 mL | [PH2](=O)OC | CH5O2P
product | Benzyl 2-((methoxyphosphinyl)methyl)-4-phenylbutanoate | 5.19 g, 100% yield | COP(=O)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C19H23O4P
